### PR TITLE
[Merged by Bors] - feat(Topology/): add `Submodule.closure_coe_iSup_map_single`

### PR DESCRIPTION
**Pull request by urkud**
I'm going to use this lemma to prove `UniqueDiffWithinAt.pi`
without assuming that the index type is finite,
as a part of generalizing the file to TVS.

Also add `ContinuousLinearMap.single`
and generalize `le_comap_single_pi`
from `Submodule.pi Set.univ _` to `.pi I _`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/LinearMapPiProd.lean [hunk 1]
```diff
@@ -342,3 +348,4 @@ end AddCommGroup
 end coprod
 
 end ContinuousLinearMap
+
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Module/LinearMapPiProd.lean:351]:
```suggestion
```

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 2]
```diff
@@ -191,6 +189,54 @@ theorem Submodule.isClosed_or_dense_of_isCoatom (s : Submodule R M) (hs : IsCoat
 
 end closure
 
+namespace Submodule
+
+variable {ι R : Type*} {M : ι → Type*} [Semiring R] [∀ i, AddCommMonoid (M i)] [∀ i, Module R (M i)]
+  [∀ i, TopologicalSpace (M i)] [DecidableEq ι]
+
+/-- If `s i` is a family of submodules, each is in its module,
+then the closure of their span in the indexped product of the modules
```
Comment (eric-wieser) [inline Mathlib/Topology/Algebra/Module/Basic.lean:198]:
```suggestion
then the closure of their span in the indexed product of the modules
```

File: Mathlib/LinearAlgebra/Pi.lean [hunk 3]
```diff
@@ -376,25 +376,23 @@ theorem iInf_comap_proj :
...
   rintro j -
-  by_cases h : j = i
-  · rwa [h, LinearMap.coe_single, Pi.single_eq_same]
-  · rw [LinearMap.coe_single, Pi.single_eq_of_ne h]
-    exact (p j).zero_mem
+  rcases eq_or_ne j i with rfl | hne <;> simp [*]
+
+theorem iSup_map_single_le [DecidableEq ι] :
+    ⨆ i, map (LinearMap.single R φ i) (p i) ≤ pi I p :=
+  iSup_le fun _ => map_le_iff_le_comap.mpr <| le_comap_single_pi _
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Pi.lean:388]: I added this lemma since it appeared in two proofs; feel free to re-inline it if you disagree with me doing so.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Topology/Algebra/Module/Basic.lean [hunk 4]
```diff
@@ -191,6 +189,49 @@ theorem Submodule.isClosed_or_dense_of_isCoatom (s : Submodule R M) (hs : IsCoat
...
+  · exact SetLike.coe_mono <| iSup_map_single_le
+  · simp only [Set.subset_def, mem_closure_iff]
+    intro x hx U hU hxU
+    rcases isOpen_pi_iff.mp hU x hxU with ⟨t, V, hV, hVU⟩
+    refine ⟨∑ i ∈ t, Pi.single i (x i), hVU ?_, ?_⟩
+    · simp_all [Finset.sum_pi_single]
+    · exact sum_mem fun i hi ↦ mem_iSup_of_mem i <| mem_map_of_mem <| hx _ <| Set.mem_univ _
+
+/-- If `s i` is a family of submodules, each is in its module,
+then the closure of their span in the indexped product of the modules
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Module/Basic.lean:217]:
```suggestion
then the closure of their span in the indexed product of the modules
```
Github doesn't let me apply Eric's suggestion - idk why.

File: Mathlib/Topology/Algebra/Module/LinearMapPiProd.lean [hunk 5]
```diff
@@ -209,6 +209,12 @@ def _root_.Pi.compRightL {α : Type*} (f : α → ι) : ((i : ι) → φ i) →L
 @[simp] lemma _root_.Pi.compRightL_apply {α : Type*} (f : α → ι) (v : (i : ι) → φ i) (i : α) :
     Pi.compRightL R φ f v i = v (f i) := rfl
 
+/-- `Pi.single` as a bundled continuous linear map. -/
+@[simps! (config := .asFn)]
```
Comment (urkud) [inline Mathlib/Topology/Algebra/Module/LinearMapPiProd.lean:213]:
```suggestion
@[simps! -fullyApplied]
```
